US04127720
Diethyl ethoxymethylenemalonate (10.72 g., 0.0496 mole) was added to a stirred mixture at 25° of 1-amino-3,4-dihydro-6-methoxyisoquinoline (8.75 g., 0.0496 mole) in toluene (330 ml.). Stirring was continued for 10 minutes after which the temperature of the resulting yellow solution was raised to the reflux point during ten minutes. The solution was refluxed for 5 minutes and cooled to give ethyl 6,7-dihydro-9-methoxy-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate, m.p. 158°-160° C. Successive recrystallizations from ethyl acetate and ethanol gave off-white flocculent needles: 10.3 g. (69% yield), m.p. 173°-175°.

reactant | Diethyl ethoxymethylenemalonate | 0.0496 mole, 10.72 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | 1-amino-3,4-dihydro-6-methoxyisoquinoline | 0.0496 mole, 8.75 g | NC1=NCCC2=CC(=CC=C12)OC | C10H12N2O
solvent | toluene | 330 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 6,7-dihydro-9-methoxy-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate | 69% yield | COC=1C=C2CCN3C(C2=CC1)=NC=C(C3=O)C(=O)OCC | C16H16N2O4
